US07547698B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID (4-FLUOROPHENYL)AMIDE
Following the procedure as described in Example 1, making variations only as required to 4-fluoroaniline in place of isoamylamine to react with 6-[4-(2-trifluoromethyl-benzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid in 57% yield (0.065 g). m.p. 115-117° C. 1H NMR (300 MHz, CDCl3) δ 9.1 (s, 1H), 8.22 (s, 1H), 7.74-7.5 (m, 6H), 7.35-7.33 (m, 1H), 7.08-6.95 (m, 2H), 6.9 (d, J=7.6 Hz, 1H), 4.06-3.94 (m, 1H), 3.93-3.81 (m, 1H), 3.7-3.53 (m, 2H), 3.51-3.4 (m, 2H), 3.6-3.27 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 167.6, 160.8, 160.2, 157.6, 154.9, 137.8, 135.7, 134.3, 134.2, 134.1, 134.0, 132.4, 129.5, 127.2, 126.9, 126.8, 126.7, 126.5, 125.4, 121.2, 121.1, 118.7, 115.8, 115.5, 112.2, 46.2, 46.1, 45.6, 41.2. MS (ES+) m/z 513.3 (M+1).

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 6-[4-(2-trifluoromethyl-benzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)C1 | C21H20F3N5O3
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID (4-FLUOROPHENYL)AMIDE | 57% yield | FC1=CC=C(C=C1)NC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)C1 | C25H20F4N6O2
